US04897105
Preparation of 2-(2-chlorophenylsulfonyl)imino-5-methoxy-7-methyl-2H-[1,2,4]-thiadiazolo [2,3-a]pyrimidine (Compound No. 2)
A solution of 2.0 g of N-(2-chlorophenylsulfonyl)-N'-(4-methoxy-6-methyl-2-pyrimidinyl) thiourea in 30 ml of pyridine is cooled to -6° C.~-8° C., to which 0.9 g of bromine is dropwise added. After stirring for 1.5 hours, at the same temperature, the reaction mixture is poured into 150 ml of ice water and the precipitate is collected by filtration. It is then washed with water, dried, and recrystallized from acetonitrile to give 1.4 g of title compound as white needles. mp 191°~192° C. (decomp.)

reactant | N-(2-chlorophenylsulfonyl)-N'-(4-methoxy-6-methyl-2-pyrimidinyl) thiourea | 2.0 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(=S)NC1=NC(=CC(=N1)OC)C | C13H13ClN4O3S2
reactant | bromine | 0.9 g | BrBr | Br2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-chlorophenylsulfonyl)imino-5-methoxy-7-methyl-2H-[1,2,4]-thiadiazolo [2,3-a]pyrimidine | 1.4 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C1N=C2N(C(=CC(=N2)OC)C)S1 | C13H11ClN4O3S2
